US20010036946A1
1-[N2-(1,1-dimethylethoxycarbonyl)-N6-(phenylmethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)piperazine
To a mixture of 18.8 g (0.0494 mol) of Boc-Lys(Z)-OH, 6.5 g (0.05 mol) of DIEA, 16 g (0.05 mol) of TBTU, 6.6 g (0.049 mol) of HOBt and 100 ml of dimethylformamide were added dropwise, with stirring, 8.1 g (0.0494 mol) of 1-(4-pyridinyl)piperazine, dissolved in 40 ml of DMF, and the mixture was stirred overnight at room,temperature. The solvent was removed in vacuo and the residue was taken up in ethyl acetate. The ethyl acetate phase was then washed three times successively with 70 ml of saturated aqueous sodium hydrogen carbonate solution and once with 70 ml of saturated aqueous saline solution, dried over sodium sulphate and evaporated down in vacuo. 24.2 g (93.2% of theory) of a yellowish oil were obtained, which was used for the following reactions without further purification. IR (KBr): 1650, 1713 cm−1 (C═O) Rf (FM1): 0.59

reactant | Boc-Lys(Z)-OH | 0.0494 mol, 18.8 g | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C19H28N2O6
reactant | DIEA | 0.05 mol, 6.5 g | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.05 mol, 16 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 0.049 mol, 6.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-(4-pyridinyl)piperazine | 0.0494 mol, 8.1 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-[N2-(1,1-dimethylethoxycarbonyl)-N6-(phenylmethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)piperazine | CC(C)(OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N1CCN(CC1)C1=CC=NC=C1)C | C28H39N5O5
